US20010021718A1
tert-Butyl (3R)-6-cyclohexyl-3-({[(1S)-2-ethoxy-1-(hydroxymethyl)-2-oxoethyl]amino}carbonyl)hexanoate
A solution of (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid (Preparation 1) (5.00 g, 16.76 mmol) in dichloromethane (75 ml) was treated sequentially with 1-hydroxybenzotriazole hydrate (2.49 g, 18.43 mmol), serine ethyl ester hydrochloride (3.13 g, 18.43 mmol) and N,N-diisopropylethylamine (6.13 ml, 35.19 mmol) and the resulting mixture was stirred at 0° C. under a nitrogen atmosphere for 15 minutes. 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (3.53 g, 18.43 mmol) was then added and the mixture was stirred for 48 hours being allowed to warm to room temperature over this time. The mixture was diluted with dichloromethane (200 ml), washed sequentially with water, aqueous citric acid solution (10% w/v), a saturated aqueous solution of sodium hydrogen carbonate and brine, dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure. The residue was then purified by column chromatography on silica gel eluting a gradient system of ethyl acetate:pentane (10:90) to (50:50) to afford the title compound as a colourless oil (5.41 g).

reactant | (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid | 16.76 mmol, 5.00 g | C(C)(C)(C)OC(C[C@H](C(=O)O)CCCC1CCCCC1)=O | C17H30O4
reactant | 1-hydroxybenzotriazole hydrate | 18.43 mmol, 2.49 g | O.ON1N=NC2=C1C=CC=C2
reactant | serine ethyl ester hydrochloride | 18.43 mmol, 3.13 g | Cl.C(C)OC([C@@H](N)CO)=O
reactant | N,N-diisopropylethylamine | 35.19 mmol, 6.13 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 18.43 mmol, 3.53 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | tert-Butyl (3R)-6-cyclohexyl-3-({[(1S)-2-ethoxy-1-(hydroxymethyl)-2-oxoethyl]amino}carbonyl)hexanoate | 5.41 g | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C(=O)N[C@H](C(=O)OCC)CO | C22H39NO6
